US03968228
2.21 G. (0.01 moles) of 1-methyl-2-hydroxymethyl-4-nitro-5-methylsulfonylimidazole and 0.715 g. of potassium cyanide in 20 ml. of dry dimethylsulfoxide are heated at 100°C. for 30 minutes. The reaction mixture is diluted with an equal volume of water and extracted with ethyl acetate. The combined extracts are dried and evaporated to dryness affording an oily residue which is recrystallized from isopropanol affording 1-methyl-2-hydroxymethyl-4-nitro-5-cyanoimidazole, m.p. 122° to 124°C.

reactant | 1-methyl-2-hydroxymethyl-4-nitro-5-methylsulfonylimidazole | 0.01 moles | CN1C(=NC(=C1S(=O)(=O)C)[N+](=O)[O-])CO | C6H9N3O5S
reactant | potassium cyanide | [C-]#N.[K+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-methyl-2-hydroxymethyl-4-nitro-5-cyanoimidazole | CN1C(=NC(=C1C#N)[N+](=O)[O-])CO | C6H6N4O3
